US08445487B2
An aqueous solution of sodium nitrite (337 mg, 4.89 mmol) in water (2 mL) was added dropwise to a suspension of 1H-indazol-4-ylamine D (631 mg, 4.74 mmol) in 6M hydrochloric acid (7.2 mL) at below 0° C. After stirring for 30 minutes, sodium tetrafluoroborate (724 mg) was added to the reaction mixture. A viscous solution resulted, which was filtered and washed briefly with water to yield 1H-indazole-4-diazonium tetrafluoroborate salt E (218 mg, 20%) as a deep red solid.

reactant | sodium nitrite | 4.89 mmol, 337 mg | N(=O)[O-].[Na+]
reactant | 1H-indazol-4-ylamine | N1N=CC2=C(C=CC=C12)N | C7H7N3
reactant | sodium tetrafluoroborate | 724 mg | F[B-](F)(F)F.[Na+]
solvent | water | 2 mL | O | H2O
solvent | hydrochloric acid | 6M, 7.2 mL | Cl | ClH
product | 1H-indazole-4-diazonium tetrafluoroborate salt | F[B-](F)(F)F.N1N=CC=2C(=CC=CC12)[N+]#N | InChI=1S/C7H5N4.BF4/c8-10-6-2-1-3-7-5(6)4-9-11-7;2-1(3,4)5/h1-4H,(H,9,11);/q+1;-1
